US06284764B1
3-{2-[4-(3-Methyl-4-phenoxy-phenylamino)-quinazolin-6-yl]-ethyl)-piperidin-3-ol:
A mixture of 3-[4-(3-Methyl-4-phenoxy-phenylamino)-quinazolin-6-ylethynyl]-piperidin-3-ol dihydrochloride (100 mg, 0.19 mmol) and Pd/C (10%, 6 mg) was shaken in a Parr bottle with hydrogen at 50 psi overnight and filtered through a pad of Celite. The filtrate was concentrated to small volume and added dropwise into EtOAc with stirring. The solid was collected by suction filtration, rinsed with EtOAc, and further dried to yield 89 mg (89%) of yellow solid: 1H NMR (CO300) 5 1.69 (dt, 1H), 1.81(br d, 1H), 1.95 (t, 3H), 2.15 (m, 1H), 2.28 (t, 3H), 2.93 (t, 1H), 3.02 (m, 3H), 3.18 (d, 1H), 3.31(br, 1H), 6.94 (m, 3H), 7.08 (t, 1H), 7.34 (t, 2H), 7.55 (d, 1H), 7.66 (d, 1H), 7.78 (d, 1H), 8.02 (d, 1H), 8.58 (s, 1H), 8.73 (s, 1H); MS m/z (MH+) 455.2.

reactant | 3-[4-(3-Methyl-4-phenoxy-phenylamino)-quinazolin-6-ylethynyl]-piperidin-3-ol dihydrochloride | 0.19 mmol, 100 mg | Cl.Cl.CC=1C=C(C=CC1OC1=CC=CC=C1)NC1=NC=NC2=CC=C(C=C12)C#CC1(CNCCC1)O
reactant | hydrogen | [H][H] | H2
catalyst | Pd/C | 6 mg | [Pd] | Pd
product | 3-{2-[4-(3-Methyl-4-phenoxy-phenylamino)-quinazolin-6-yl]-ethyl)-piperidin-3-ol | 89 mg, 89% | CC=1C=C(C=CC1OC1=CC=CC=C1)NC1=NC=NC2=CC=C(C=C12)CCC1(CNCCC1)O | C28H30N4O2
